US04661603
To a suspension of 21 g of α-(2,6-dimethyl-4-carboxyphenyl)-2-chloro-5-iodobenzenemethanol, 5.1 g of imidazole, 13.8 g of potassium carbonate and 120 ml of dimethylformamide are added 0.4 g of potassium fluoride and 0.4 g of copper powder, and the mixture is stirred at 135°-140° C. for 30 hours. After cooling, to the reaction mixture is added 240 ml of water and 0.45 g of sodium sulfide trihydrate. The whole mixture is stirred for 30 minutes. The precipitated copper sulfide is filtered with sellaite under reduced pressure and the filtrate is adjusted to pH 4 with concentrated hydrochloric acid under heating and stirring. The precipitated crystals are collected by filtration, washed with water and then dried. Recrystallization from dimethylformamide gives α-(2,6-dimethyl-4-carboxyphenyl)-2-chloro-5-(1-imidazolyl)benzenemethanol, melting at 318°-320° C. with decomposition, as white crystals in high yield.

reactant | α-(2,6-dimethyl-4-carboxyphenyl)-2-chloro-5-iodobenzenemethanol | 21 g | CC1=C(C(=CC(=C1)C(=O)O)C)C(O)C1=C(C=CC(=C1)I)Cl | C16H14ClIO3
reactant | imidazole | 5.1 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium fluoride | 0.4 g | [F-].[K+]
reactant | sodium sulfide trihydrate | 0.45 g | O.O.O.[S-2].[Na+].[Na+]
catalyst | copper | 0.4 g | [Cu] | Cu
solvent | water | 240 ml | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | α-(2,6-dimethyl-4-carboxyphenyl)-2-chloro-5-(1-imidazolyl)benzenemethanol | CC1=C(C(=CC(=C1)C(=O)O)C)C(O)C1=C(C=CC(=C1)N1C=NC=C1)Cl | C19H17ClN2O3
